US04959460
997.2 mg (3.31 mmol) of 2,3,4-tri-O-acetyl-β-L-xylopyranosyl azide was dissolved in 30 ml of methanol, and the solution was allowed to react at 45° to 50° C. for 2 hours in a hydrogen gas stream in the presence of 300 mg of 5% palladium carbon catalyst. The reaction solution was then filtered and the filtrate concentrated under reduced pressure. The residue was dissolved in 60 ml of pyridine, and 10 ml of acetic anhydride was added. The mixture was allowed to react at room temperature for 4 hours. The reaction mixture was then concentrated under reduced pressure and the residue extracted with chloroform (100 ml). The chloroform layer was washed with 2N aqueous hydrochloric acid solution (100 ml), 10% aqueous sodium carbonate solution (100 ml) and water in the stated order, dehydrated over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography (Waggle C-200, 30 g) and eluted with chloroform-methanol (300:1). The eluate was crystallized from ethyl acetate-hexane to obtain 309.9 mg (0.98 mmol, 30%) of 2,3,4-tri-O-acetyl-β-L-xylopyranosylamine as a colorless needle crystal. The physicochemical properties of this crystalline compound were as follows.

reactant | 2,3,4-tri-O-acetyl-β-L-xylopyranosyl azide | 3.31 mmol, 997.2 mg | C(C)(=O)O[C@@H]1[C@H](OC[C@@H]([C@H]1OC(C)=O)OC(C)=O)N=[N+]=[N-] | C11H15N3O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | 2,3,4-tri-O-acetyl-β-L-xylopyranosylamine | 0.98 mmol, 309.9 mg, 30% | C(C)(=O)O[C@@H]1[C@H](OC[C@@H]([C@H]1OC(C)=O)OC(C)=O)N | C11H17NO7
